US06924376B2
b) 2-[1-(2-Amino-ethylamino)-2-methyl-propyl]-3-benzyl-7-chloro-chromen-4-one
A solution of {2-[1-(3-benzyl-7-chloro-4-oxo-4H-chromen-2-yl)-2-methyl-propylamino]-ethyl}-carbamic acid tert-butyl ester (5.7 g, 12 mmol) in 4:1 methylene chloride/trifluoroacetic acid (250 mL) was maintained at room temperature for 1.5 hours, at which time it was concentrated. The residue was dissolved in methylene chloride (200 mL), washed with 10% sodium carbonate, saturated sodium bicarbonate, and brine, dried over magnesium sulfate, and concentrated. The residue (4.2 g, 91% yield) was used without further puification.

reactant | {2-[1-(3-benzyl-7-chloro-4-oxo-4H-chromen-2-yl)-2-methyl-propylamino]-ethyl}-carbamic acid tert-butyl ester | 12 mmol, 5.7 g | C(C)(C)(C)OC(NCCNC(C(C)C)C=1OC2=CC(=CC=C2C(C1CC1=CC=CC=C1)=O)Cl)=O | C27H33ClN2O4
solvent | methylene chloride trifluoroacetic acid | 250 mL | C(Cl)Cl.FC(C(=O)O)(F)F
product | 2-[1-(2-Amino-ethylamino)-2-methyl-propyl]-3-benzyl-7-chloro-chromen-4-one | 4.2 g, 91% yield | NCCNC(C(C)C)C=1OC2=CC(=CC=C2C(C1CC1=CC=CC=C1)=O)Cl | C22H25ClN2O2
